US03976635
A mixture comprising benzoic acid (1.22 g), ethyl 2-isobutoxycarbonyloxyimino-2-cyanoacetate (2.42 g), triethylamine (1.4 ml) and ethyl acetate (20 ml) is stirred at room temperature for 1 hour and then admixed with water. The ethyl acetate layer is separated and treated as in Example A to give isobutyl benzoate (1.7 g) as an oil.

reactant | benzoic acid | 1.22 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | ethyl 2-isobutoxycarbonyloxyimino-2-cyanoacetate | 2.42 g | C(C(C)C)OC(=O)ON=C(C(=O)OCC)C#N | C10H14N2O5
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | isobutyl benzoate | 1.7 g | C(C1=CC=CC=C1)(=O)OCC(C)C | C11H14O2
